US07342115B2
Step 2. Synthesis of 4-Hydroxy-piperidine-4-carboxylic acid amide
Pd/C (150 mg) and HOAc (2 mL) are added to a solution of 1-benzyl-4-hydroxy-piperidine-4-carboxylic acid amide (2 g, 8.5 mmol) in MeOH. The mixture is shaken under H2 (40 psi) for 14 hours. The catalyst is removed by filtration and the solvent is removed in vacuo to give the title product. 1H NMR (CD3OD) 2.96 (m, 4H), 2.05 (m, 2H), 1.49 (m, 2H).

reactant | HOAc | 2 mL | CC(=O)O | C2H4O2
reactant | 1-benzyl-4-hydroxy-piperidine-4-carboxylic acid amide | 8.5 mmol, 2 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)O | C13H18N2O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 4-Hydroxy-piperidine-4-carboxylic acid amide | OC1(CCNCC1)C(=O)N | C6H12N2O2
